US07585872B2
K2. 3-(2,2-Difluoro-ethoxy)-4-methoxy-benzaldehyde
10.04 g of isovanillin and 15.5 g of potassium carbonate are placed in an autoclave. 50 ml of DMF are added as well as 12.44 g of 2-bromo-1,1-difluoroethane. The autoclave is closed and heated at 60° C. for 20 h. Then the solids are filtered off and washed with 120 ml of DMF. About 120 ml of the solvent are distilled off and the residue poured on 200 ml of ice/water, where the product precipitates. After stirring the slurry for 30 minutes the product is filtered off and dried to give 13.69 g of the desired product.

reactant | isovanillin | 10.04 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1,1-difluoroethane | 12.44 g | BrCC(F)F | C2H3BrF2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(2,2-Difluoro-ethoxy)-4-methoxy-benzaldehyde | 13.69 g | FC(COC=1C=C(C=O)C=CC1OC)F | C10H10F2O3
